US07244747B2
Palladium on charcoal (10% wt) was added to a solution of (2-nitrophenyl){(2-oxo-4-propyl-pyrrolidin-1-yl)methyl}amine a28 (1 eq, 2.747 g, 9.905 mmol) and NH4CO2H (5 eq, 49.9 mmol, 3.123 g) in water and methanol (1/1 (v/v), 35 ml). The resulting slurry was kept under agitation during 16 hours at room temperature, then filtration over celite and evaporation of the crude mixture gave (2-aminophenyl){(2-oxo-4-propyl-pyrrolidin-1-yl)methyl}amine a29 (2.232 g, 91%).

reactant | (2-nitrophenyl){(2-oxo-4-propyl-pyrrolidin-1-yl)methyl}amine | [N+](=O)([O-])C1=C(C=CC=C1)NCN1C(CC(C1)CCC)=O | C14H19N3O3
catalyst | Palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
solvent | methanol | 35 ml | CO | CH4O
product | (2-aminophenyl){(2-oxo-4-propyl-pyrrolidin-1-yl)methyl}amine | NC1=C(C=CC=C1)NCN1C(CC(C1)CCC)=O | C14H21N3O
